* source 1
X_U1A         N00164 N00188 N00200 $G_DPWR $G_DGND 7400 PARAMS:
+ IO_LEVEL=0 MNTYMXDLY=0
X_U1B         N00200 N00181 N00188 $G_DPWR $G_DGND 7400 PARAMS:
+ IO_LEVEL=0 MNTYMXDLY=0
X_U2A         N00164 N00181 $G_DPWR $G_DGND 7404 PARAMS:
+ IO_LEVEL=0 MNTYMXDLY=0
U_DSTM1         STIM(1,1)
+ $G_DPWR $G_DGND
+ N00164 
+ IO_STM
+ IO_LEVEL=0
+  0ms 1  
+ 2ms 1  
+ 4ms 0  
+ 6ms 0 
+ 8ms 1  
