* source FM
C_C2         N00431 0 10u TC=0
R_R1         N00549 N00431  10k TC=0,0 
L_L1         N00475 N00431 0.178n
L_L2         N00944 N00932 0.285n
X_Q1         N00475 N00549 N00500 awb2n2222 PARAMS:                            
+                 
R_R2         N00509 N00500  56 TC=0,0 
R_R3         0 N00509  100 TC=0,0 
C_C3         0 N00431  0.1u  TC=0,0 
C_C4         N00475 N00431  22p  TC=0,0 
C_C5         N00500 N00475  4.7p  TC=0,0 
C_C6         0 N00549  0.01u  TC=0,0 
C_C7         N00549 N00545  0.001u  TC=0,0 
C_C8         N00545 N00585  0.01u  TC=0,0 
R_R4         0 N00585  10k TC=0,0 
R_R5         N00545 N004090  33k TC=0,0 
R_R6         N00545 N004250  33k TC=0,0 
R_R7         N00944 N00431  3.9k TC=0,0 
R_R8         0 N00944  470 TC=0,0 
C_C9         0 N00944  0.001u  TC=0,0 
C_C10         0 N01060  0.002u  TC=0,0 
C_C11         N01125 N01056  22p  TC=0,0 
C_C12         N01052 0  0.01u  TC=0,0 
C_C13         N01125 0  22p  TC=0,0 
C_C14         N00431 0  0.1u  TC=0,0 
R_R9         0 N01052  10 TC=0,0 
L_L3         N01056 N01060 0.252n
V_V1         N00431 0 9Vdc
V_V2         N004090 0  
+SIN 0 2v 2000 0 0 0
V_V3         N004250 0  
+SIN 0 2v 2000 0 0 0
X_Q3         N01056 N00932 N01052 awb2n2222 PARAMS:                            
+                 
L_L4         N01060 N00431 0.300n
R_R10         N01125 0  1k TC=0,0 
